US05266570
N-(1-[9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-2-(2-pyridyl)acetamide
Using a procedure similar to that described in Example 6 except starting with 4-amino-1-[9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]piperidine and 2-(2-pyridyl)acetic acid hydrochloride, the title compound was obtained as a white solid (72%), mp 176.0°-7.5° C.; MS(CI): 424 (M+H); NMR (300 MHz,DMSO-d6): 1.37(m, 2H), 1.69(m, 2H), 2.27(m, 2H), 2.45(s, 2H), 2.93(m, 2H), 3.34(m, 2H), 3.57 (m, 3H), 4.31(s, 1H), 6.92(m, 4H), 7.17-7.31(m, 6H), 7.71(t, 1H, J=7.7 Hz), 8.02(d, 1H, J=7.7 Hz), 8.45(m, 1H).

reactant | 4-amino-1-[9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]piperidine | NC1CCN(CC1)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C21H24N2
reactant | 2-(2-pyridyl)acetic acid hydrochloride | Cl.N1=C(C=CC=C1)CC(=O)O
product | N-(1-[9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-2-(2-pyridyl)acetamide | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)NC(CC3=NC=CC=C3)=O | C28H29N3O
